US08487108B2
To a slurry of NaH (0.835 g, 0.0348 mol) in DMF (50 mL) was added a solution of (R)-tert-butyl 3-((3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (3.8 g, 0.0116 mol) in DMF (30 mL) dropwise at −15˜−5° C. and the reaction mixture was stirred for about 1 h at rt. A solution of 3-bromopropionic acid ethyl ester (4.2 g, 0.0232 mol) in DMF (30 mL) was added to the reaction mixture dropwise while the temperature was maintained at −15˜−5° C. and the mixture was warmed slowly to rt and stirred overnight. The reaction was cooled in an ice bath and quenched with satd aq NH4Cl (80 mL). The product was extracted with EtOAc, washed with brine, dried over NaSO4 and purified by flash chromatography to afford (3R)-tert-butyl 3-((3-chlorophenyl)(3-ethoxy-3-oxopropoxy)methyl)piperidine-1-carboxylate (2.0 g, 4.71 mmol, 41%). 1H NMR (400 MHz, CDCl3): 1.12-1.37 (m, 4H), 1.45 (s, 9H), 1.47-1.75 (m, 3H), 1.82-1.93 (m, 1H), 2.50-2.58 (m, 4H), 3.43-3.52 (m, 2H), 3.80-4.01 (m, 2H), 4.07-4.17 (m, 3H), 7.13-7.23 (m, 1H), 7.25-7.27 (m, 3H). MS (E/Z): 426 (M+H+).

reactant | NaH | 0.0348 mol, 0.835 g | [H-].[Na+]
reactant | (R)-tert-butyl 3-((3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 0.0116 mol, 3.8 g | ClC=1C=C(C=CC1)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H24ClNO3
reactant | 3-bromopropionic acid ethyl ester | 0.0232 mol, 4.2 g | C(C)OC(CCBr)=O | C5H9BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (3R)-tert-butyl 3-((3-chlorophenyl)(3-ethoxy-3-oxopropoxy)methyl)piperidine-1-carboxylate | 4.71 mmol, 2.0 g, 41% | ClC=1C=C(C=CC1)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCC(=O)OCC | C22H32ClNO5
